US04808599
The reaction is carried out as in Example 1, starting with 7-phenylbenzo[b]thiophene-5-carboxylic acid (3 g) in toluene (30 cc) and thionyl chloride (2.64 cc) and then triethylamine (5 cc) and N-methylethylamine (1.01 cc) in toluene (30 cc). After chromatography of the residue on silica gel using a cyclohexane:ethanol:ethyl acetate (90:5:5 by volume) mixture as the eluent, a residue is obtained, which is stirred overnight in 40°-60° petroleum spirit (50 cc). After filtering and drying, N-ethyl-N-methyl-7-phenylbenzo[b]thiophene-5-carboxamide (1.5 g), m.p. 93° C., is isolated.

reactant | 7-phenylbenzo[b]thiophene-5-carboxylic acid | 3 g | C1(=CC=CC=C1)C1=CC(=CC2=C1SC=C2)C(=O)O | C15H10O2S
reactant | triethylamine | 5 cc | C(C)N(CC)CC | C6H15N
reactant | N-methylethylamine | 1.01 cc | CNCC | C3H9N
reactant | cyclohexane ethanol ethyl acetate | C1CCCCC1.C(C)O.C(C)(=O)OCC
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 2.64 cc | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
product | N-ethyl-N-methyl-7-phenylbenzo[b]thiophene-5-carboxamide | 1.5 g | C(C)N(C(=O)C1=CC2=C(SC=C2)C(=C1)C1=CC=CC=C1)C | C18H17NOS
